US07498440B2
Preparation of 4-[hydroxy(diphenyl)methyl]-1-{4-[(phenylmethyl)oxy]butyl}-1-azoniabicyclo[2.2.2]octane bromide
Following the general procedure outlined in Example 4, 1-azabicyclo[2.2.2]oct-4-yl(diphenyl)methanol (0.0646 g, 0.220 mmol) and 4-bromobutyl phenylmethyl ether (0.090 mL, 0.472 mmol) in 2 CH3CN/3 CHCl3 (5.0 mL) were reacted to give the desired product (0.0531 g, 48.3%). EI-MS m/z 456(M+) Rt (2.09 min).

reactant | 1-azabicyclo[2.2.2]oct-4-yl(diphenyl)methanol | 0.220 mmol, 0.0646 g | N12CCC(CC1)(CC2)C(O)(C2=CC=CC=C2)C2=CC=CC=C2 | C20H23NO
reactant | 4-bromobutyl phenylmethyl ether | 0.472 mmol, 0.090 mL | C1(=CC=CC=C1)COCCCCBr | C11H15BrO
solvent | CH3CN | 5.0 mL | CC#N | C2H3N
product | 4-[hydroxy(diphenyl)methyl]-1-{4-[(phenylmethyl)oxy]butyl}-1-azoniabicyclo[2.2.2]octane bromide | 0.0531 g, 48.3% | [Br-].OC(C12CC[N+](CC1)(CC2)CCCCOCC2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2 | InChI=1S/C31H38NO2.BrH/c33-31(28-14-6-2-7-15-28,29-16-8-3-9-17-29)30-18-22-32(23-19-30,24-20-30)21-10-11-25-34-26-27-12-4-1-5-13-27;/h1-9,12-17,33H,10-11,18-26H2;1H/q+1;/p-1
